US04929639
A mixture of (2R,4S)-4-t-butyldimethylsiloxymethyl -2-methyl-1,3-dioxan-5-one (2.50 g) and carboethoxymethylenetriphenylphosphorane (4.00 g) in tetrahydrofuran (25 ml) was stirred at room temperature for 24 hours and the solvent was evaporated in vacuo. The residue was chromatographed on a silica gel column (50 g) with a mixture of n-hexane and ethyl acetate (10:1) as an eluent to give (2R,4R)-4-t-butyldimethylsiloxymethyl-5-ethoxycarbonylmethylene-2-methyl-1,3-dioxane (2.09 g) as an oil.

reactant | (2R,4S)-4-t-butyldimethylsiloxymethyl -2-methyl-1,3-dioxan-5-one | 2.50 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OCC1=O)C | C12H24O4Si
reactant | carboethoxymethylenetriphenylphosphorane | 4.00 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (2R,4R)-4-t-butyldimethylsiloxymethyl-5-ethoxycarbonylmethylene-2-methyl-1,3-dioxane | 2.09 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OCC1=CC(=O)OCC)C | C16H30O5Si
